US07618960B2
Synthesis of 4-(3,4,5-trifluorobenzyl)morpholine-2,3-dione
A mixture of 2-[(3,4,5-trifluorobenzyl)amino]ethanol (6.91 g) and diethyl oxalate (20 mL) was stirred at 170° C. for one hour. The reaction solution was concentrated under reduced pressure, and then a diethyl ether was added to the residue. The precipitated crystals were collected by filtration and then air-dried to obtain 7.38 g of the title compound.

reactant | 2-[(3,4,5-trifluorobenzyl)amino]ethanol | 6.91 g | FC=1C=C(CNCCO)C=C(C1F)F | C9H10F3NO
reactant | diethyl oxalate | 20 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 4-(3,4,5-trifluorobenzyl)morpholine-2,3-dione | 7.38 g | FC=1C=C(CN2C(C(OCC2)=O)=O)C=C(C1F)F | C11H8F3NO3
